US07714009B2
4-[(2-Chloro-1-methyl-1H-benzimidazol-7-yl)amino]benzonitrile
A mixture of 4-[(1-methyl-2-oxo-1,3-dihydro-2H-benzimidazol-7-yl)amino]benzonitrile (137 mg, 0.518 mmol), prepared in a similar manner as described in Example 154, and phosphorous oxychloride (1.5 ml) was refluxed for 3 h. The mixture was concentrated in vacuo and quenched with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated. The residue was flash chromatographed eluting with a solution of 25% ethyl acetate/hexane to give 66 mg (45%) of the title compound.

reactant | 4-[(1-methyl-2-oxo-1,3-dihydro-2H-benzimidazol-7-yl)amino]benzonitrile | 0.518 mmol, 137 mg | CN1C(NC2=C1C(=CC=C2)NC2=CC=C(C#N)C=C2)=O | C15H12N4O
reactant | phosphorous oxychloride | 1.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-[(2-Chloro-1-methyl-1H-benzimidazol-7-yl)amino]benzonitrile | 66 mg, 45% | ClC1=NC2=C(N1C)C(=CC=C2)NC2=CC=C(C#N)C=C2 | C15H11ClN4
